US08466114B2
To a stirred solution of 2-bromo-5-chlorobenzoic acid (8 g, 34.0 mmole) in dichloromethane (35 mL) was added DMF (1 mL) and oxalyl chloride (3.54 mL, 37.4 mmol) drop wise at 0° C. After complete addition, the reaction mixture was stirred at room temperature for 3 h. The volatiles were evaporated under reduced pressure to furnish 2-bromo-5-chloro-benzoyl chloride (8.5 g). The crude product was used without further purification.

reactant | 2-bromo-5-chlorobenzoic acid | 34.0 mmole, 8 g | BrC1=C(C(=O)O)C=C(C=C1)Cl | C7H4BrClO2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 37.4 mmol, 3.54 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 2-bromo-5-chloro-benzoyl chloride | 8.5 g | BrC1=C(C(=O)Cl)C=C(C=C1)Cl | C7H3BrCl2O
